US08232410B2
Synthesis of 6-diethylamino-5-(4-chlorobenzoyl)amino-2-(2-methoxyphenyl)-1H-benzo[d]imidazole
5-Amino-6-diethylamino-2-(2-methoxyphenyl)-1H-benzo[d]-imidazole (187 mg, 0.6 mmol) was reacted with 4-chlorobenzoyl chloride (105 mg, 0.6 mmol) in the same manner as that described above to give the desired product (216 mg, 80% yield) as pale yellow powder: 1H-NMR (300 MHz, CDCl3) δ 0.99 (t, 6H, J=7.2 Hz), 3.05 (q, 4H, J=7.2 Hz), 4.07 (s, 3H), 7.05 (d, 1H, J=8.4 Hz), 7.11 (t, 1H, J=7.8 Hz), 7.41 (t, 1H, J=7.8 Hz), 7.47 (d, 2H, J=8.4 Hz), 7.67 (s, 1H), 7.88 (d, 2H, J=8.4 Hz), 8.55 (d, 1H, J=6.9 Hz), 8.86 (s, 1H); 13C NMR (75 MHz, CDCl3) δ13.1, 50.6, 55.9, 111.5, 117.7, 121.7, 128.3, 129.0, 129.8, 131.1, 132.5, 133.9, 136.0, 137.7, 150.2, 156.7, 163.4; ESI MS m/z 449.2 [M+H]+.

reactant | 5-Amino-6-diethylamino-2-(2-methoxyphenyl)-1H-benzo[d]-imidazole | 0.6 mmol, 187 mg | NC1=CC2=C(NC(=N2)C2=C(C=CC=C2)OC)C=C1N(CC)CC | C18H22N4O
reactant | 4-chlorobenzoyl chloride | 0.6 mmol, 105 mg | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 6-diethylamino-5-(4-chlorobenzoyl)amino-2-(2-methoxyphenyl)-1H-benzo[d]imidazole | 216 mg, 80% yield | C(C)N(C=1C(=CC2=C(NC(=N2)C2=C(C=CC=C2)OC)C1)NC(C1=CC=C(C=C1)Cl)=O)CC | C25H25ClN4O2
